US07262185B2
Imidazole (1.3 g) was dissolved in. THF (15.5 ml), potassium carbonate (5.3 g) was added to the mixture, and a solution of 1-(3-bromopropyl)-4-nitrobenzene (3.1 g) in THF (15.5 ml) was added dropwise to the mixture. The mixture was stirred for 60 hours at 50° C., and cooled to room temperature. The reaction solution was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 1-[3-(4-nitrophenyl)propyl]imidazole (1.3 g).

reactant | Imidazole | 1.3 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-bromopropyl)-4-nitrobenzene | 3.1 g | BrCCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10BrNO2
reactant | water | O | H2O
solvent | THF | 15.5 ml | C1CCOC1 | C4H8O
solvent | THF | 15.5 ml | C1CCOC1 | C4H8O
product | 1-[3-(4-nitrophenyl)propyl]imidazole | 1.3 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCN1C=NC=C1 | C12H13N3O2
